US06417212B1
B. 2-(4-Hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester
2-Methyl-2-{2-methyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}propionic acid (9.00 g, 26.3 mmol) in ethanol (250 mL) was treated with 5% Pd/C (1.25 g) and hydrogen (60 psi, room temperature, overnight). Additional 5% Pd/C (1.25 g) was added, and the reaction was continued for 6 h at 40° C. The mixture was filtered and concentrated to a tan oil (6.25 g). This oil contained 9 mol% of 2-(4-Hydroxy-2-hydroxymethyl-phenoxy)-2-methyl-propionic acid ethyl ester. 1H NMR (400 MHz, CDCl3) δ1.26 (t, 3H, J=7.3 Hz), 1.51 (s, 6H), 2.14 (s, 3H), 4.24 (q, 2H, J=7.3 Hz), 5.68 (brs, 1H), 6.47 (dd, 1H, J=3.4, 8.8 Hz), 6.59 (d, 1H, J=8.3 Hz), 6.60 (brs, 1H).

reactant | 2-Methyl-2-{2-methyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}propionic acid | 26.3 mmol, 9.00 g | CC(C(=O)O)(C)OC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)C | C23H25NO5
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 250 mL | C(C)O | C2H6O
catalyst | Pd/C | 1.25 g | [Pd] | Pd
catalyst | Pd/C | 1.25 g | [Pd] | Pd
product | 2-(4-Hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
